* C:\Mac\Home\Documents\115DA-Capstone\SAR ADC\SAR_ADC_SIM.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 1
S1 N001 vhold ctrl 0 MYSW
C1 vhold 0 1n
R1 vhold 0 10Meg
V2 ctrl 0 PULSE(0 1 0 1u 1u 100u 200u)
.model MYSW SW(Ron=1 Roff=1e9 Vt=0.5 Vh=0)
.tran 1m
.backanno
.end
